* Z:\mnt\design.r\spice\examples\3909.asc
R1 N009 0 24.9K
C1 N007 0 1µ
R2 OUT N002 787K
R3 0 N002 31.6K
C2 OUT 0 2.2µ
R4 IN N008 100K
V1 IN 0 12
R5 IN N003 402K
R6 N003 0 102K
L1 IN N001 6.8µ
D1 N004 0 LXHL-BW02 N=10
D2 N006 0 LXHL-BW02 N=10
XU1 N007 IN N003 N009 N007 N002 N005 N008 N006 N004 OUT N001 0 LT3909
V2 N005 0 3.3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* 40mA each
.lib LT3909.sub
.backanno
.end
